US07462724B2
Preparation of 2-amino-3-nitrobenzamide
To a solution of 2-amino-3-nitrobenzoic acid (prepared using the procedure as described in U.S. Pat. No. 6,737,421, EXAMPLE 2, part b) in dimethoxyethane (DME, 7.1 mL/g), was added thionyl chloride (1.33 equivalents). The mixture was stirred at 50° C. for 12 hours, cooled and slowly added to concentrated ammonium hydroxide (22 equivalents). The mixture was stirred at 50° C. for 2 hours, water was added, and the mixture was cooled and filtered. The solid was washed with water and isopropanol, and dried under vacuum to give the title compound (89% yield).

reactant | 2-amino-3-nitrobenzoic acid | NC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H6N2O4
reactant | thionyl chloride | 1.33 equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | 22 equivalents | [OH-].[NH4+]
reactant | water | O | H2O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-amino-3-nitrobenzamide | 89% yield | NC1=C(C(=O)N)C=CC=C1[N+](=O)[O-] | C7H7N3O3
